Colpitts Oscillator Simulation

* Transistor model from https://physics.uncg.edu/hellen/spice_stuff.html
.model 2N3904   NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)

* Biasing network
R1 1 2 8.3k
R2 0 1 1.7k
C3 0 1 0.1n

* Common-base amplifier
Q1 4 1 3 2N3904
R3 0 3 1k

* LC resonant circuit (1111kHz)
C1 3 2 330n
C2 4 3 330n
L1 4 2 124u

* Output coupling
C4 4 5 0.1u 

* Load impedance
RL 5 0 1M

* Power supply
Vcc 2 0 DC 10

.control
tran 100u 100m
run
.endc

.end

