Colpitts Oscillator Simulation

* Transistor model from https://physics.uncg.edu/hellen/spice_stuff.html
.model 2N3904   NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)

.include 2n2219.lib

* Biasing network
R1 1 2 560k
R2 0 1 100k
C3 0 1 0.1u

* Common-base amplifier
Q1 4 1 3 2N2219
R3 0 3 1k
 
* LC resonant circuit (1111kHz)
C1 30 2 0.1u
C2 4 30 0.1u
L1 4 2 10u

* Voltage source in feedback loop fo AC analysis
Vfb 30 3 DC 0 AC 1

* Output coupling
C4 4 5 0.1u 

* Load impedance
RL 5 0 1M

* Power supply
Vcc 2 0 DC 10

.control
*tran 0.5u 100m 0m
ac dec 10 1e4 1e7 

run
plot v(3)
.endc

.end

